US05093356
Step 1: (Z)-5-Fluoro-2-methyl-1-(4-methylthiobenzylidene)inden-3-ylmethyl isocyanate
To a suspension of (Z)-5-fluoro-2-methyl-1-(4-methylthiobenzylidene)inden-3-ylacetic acid (5.0 g, 14.7 mmol) in methylene chloride (50 mL) at room temperature there was added oxalyl chloride (2.8 g, 22 mmol) and DMF (2 drops) and the mixture stirred for 1 hour; the solution was evaporated and the crude acid chloride flushed twice with carbon tetrachloride (20 mL) then suspended in carbon tetrachloride (25 mL) and trimethylsilyl azide (2.53 g, 22 mmol) was added. The mixture was stirred at room temperature for 15 minutes, then gently heated on a steam bath as nitrogen was evolved. The heating was continued until gas evolution ceased, then the mixture was evaporated to afford the crude title compound as an oil which was used as such in the next step.

reactant | (Z)-5-fluoro-2-methyl-1-(4-methylthiobenzylidene)inden-3-ylacetic acid | 14.7 mmol, 5.0 g | FC=1C=C2C(=C(/C(/C2=CC1)=C/C1=CC=C(C=C1)SC)C)CC(=O)O | C20H17FO2S
reactant | oxalyl chloride | 22 mmol, 2.8 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | trimethylsilyl azide | 22 mmol, 2.53 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | (Z)-5-Fluoro-2-methyl-1-(4-methylthiobenzylidene)inden-3-ylmethyl isocyanate | FC=1C=C2C(=C(/C(/C2=CC1)=C/C1=CC=C(C=C1)SC)C)CN=C=O | C20H16FNOS
